US07776875B2
Preparation of Intermediate of E/Z-2-[4-chloro-2-(6-chloro-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-ethyl-butyric acid methyl ester
To the mixture of 6-chloro-5-fluoro-1,3-dihydro-indol-2-one (500 mg, 2.7 mmol) and 2-(4-chloro-2-formyl-phenoxy)-2-ethyl-butyric acid methyl ester (844 mg, 2.97 mmol) in methanol (5 mL) was added pyrrolidine (95 mg, 1.35 mmol) dropwise. The mixture was then heated at 70° C. for 1 h. After cooled to room temperature, the mixture was partitioned between EtOAc and diluted HCl solution. The organic phase was washed with water, brine, dried over anhydrous Na2SO4 and concentrated to give the crude product as a red-yellow solid, which was used for the next step reaction without further purification.

reactant | 6-chloro-5-fluoro-1,3-dihydro-indol-2-one | 2.7 mmol, 500 mg | ClC1=C(C=C2CC(NC2=C1)=O)F | C8H5ClFNO
reactant | 2-(4-chloro-2-formyl-phenoxy)-2-ethyl-butyric acid methyl ester | 2.97 mmol, 844 mg | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)C=O)=O | C14H17ClO4
reactant | pyrrolidine | 1.35 mmol, 95 mg | N1CCCC1 | C4H9N
solvent | methanol | 5 mL | CO | CH4O
product | Z-2-[4-chloro-2-(6-chloro-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-ethyl-butyric acid methyl ester | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=C(C=C12)F)Cl)=O)=O | C22H20Cl2FNO4
